US07262303B2
(Z)-2-Methoxy-3-{4-[2-(5-methyl-2-phenyl-oxazol-4-yl)-ethoxy]-benzo[b]thiophen-7-yl}-acrylic acid
To a suspension of 45.81 g of (Z)-2-methoxy-3-{4-[2-(5-methyl-2-phenyl-oxazol-4-yl)-ethoxy]-benzo[b]thiophen-7-yl}-acrylic acid methyl ester (100.9 mmol) in 920 ml of methanol, a solution of 40.15 g of potassium hydroxide (615.3 mmol) in 92 ml of water was added within 5 minutes. The white suspension was stirred for 90 min at 100° C. The formed yellowish reaction solution was cooled to 60° C., 54 ml of conc. hydrochloric acid were added dropwise within 5 min (pH 3-4) and the resulting thick suspension was cooled to 0° C. The solid was filtered off and washed with 1000 ml water in four portions. The filter cake was suspended in 920 ml of ethanol at 80° C. for 1 h and after at 0° C. for 2 h. The white crystals were filtered off, washed with 300 ml of cold (−15° C.) ethanol in two portions and dried to constant weight (20° C./5 mbar/16 h) to afford 41.66 g (95%) of the title compound with a purity of >99.9% according to HPLC (method described in Example 10). m.p.: 189-190° C. MS: 434.2 (M−H)−. 1H-NMR (CDCl3): 2.41 (s, 3H); 3.11 (t, J=6.6, 2H); 3.79 (s, 3H); 4.47 (t, J=6.8, 2H); 6.88 (d, J=8.8, 1H); 7.30-7.40 (m, 2H); 7.40-7.47 (m, 3H); 7.49 (d, J=5.6, 1H); 8.00-8.10 (m, 2H); 8.12 (d, J=8.4, 1H); COOH very br.

reactant | (Z)-2-methoxy-3-{4-[2-(5-methyl-2-phenyl-oxazol-4-yl)-ethoxy]-benzo[b]thiophen-7-yl}-acrylic acid methyl ester | 100.9 mmol, 45.81 g | COC(/C(=C/C1=CC=C(C2=C1SC=C2)OCCC=2N=C(OC2C)C2=CC=CC=C2)/OC)=O | C25H23NO5S
reactant | potassium hydroxide | 615.3 mmol, 40.15 g | [OH-].[K+]
reactant | hydrochloric acid | 54 ml | Cl | ClH
solvent | methanol | 920 ml | CO | CH4O
solvent | water | 92 ml | O | H2O
product | (Z)-2-Methoxy-3-{4-[2-(5-methyl-2-phenyl-oxazol-4-yl)-ethoxy]-benzo[b]thiophen-7-yl}-acrylic acid | 41.66 g, 95% | CO\C(\C(=O)O)=C/C1=CC=C(C2=C1SC=C2)OCCC=2N=C(OC2C)C2=CC=CC=C2 | C24H21NO5S
